US08022062B2
3-(tert-Butoxycarbonyl)-6-(4-carboxy-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Combine 7-chloro-6-(4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.4 g, 0.82 mmol), potassium carbonate (4 g, 28.9 mmol), methanol (3 mL), water (3 mL) and heat at 50° C. for 2 h. Cool the reaction mixture to ambient temperature, add saturated aqueous Na2CO3 and dilute with DCM (10 mL). Add di-tert-butyl-dicarbonate (2.4 g, 10.9 mmol by portions. Separate the organic layer and extract the aqueous layer with DCM (3×10 mL). Combine the organic extracts, dry over anhydrous Na2SO4, evaporate the solvent and purify by chromatography on silica gel eluting with DCM and DCM/methanol (9:1) to give the title compound as a white solid (0.3 g, 80%). MS (ES+) m/z: 331 (M+H−Boc)+.

reactant | 7-chloro-6-(4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.82 mmol, 0.4 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(=O)OC | C21H20ClF3N2O3
reactant | potassium carbonate | 28.9 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-tert-butyl-dicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 3 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 3-(tert-Butoxycarbonyl)-6-(4-carboxy-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.3 g, 80% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CC=C(C=C2)C(=O)O | C23H27ClN2O4
